US06429221B1
b) 3′,4′-Dimethoxyvalerophenone oxime
To a stirred solution of 3′,4′-dimethoxyvalerophenone (0.08 grams, 3.60 mmol) in a mixture of ethanol (25 milliliters) and water (5 milliliters) was added hydroxyamine hydrochloride (0.40 grams, 5.76 mmol) and sodium acetate (0.59 grams, 7.20 mmol) in water (5 milliliters). The solution was refluxed for two days. Reaction progress was monitored by TLC (20%, ethyl acetate/hexane, UV) and was complete after 2 days. The reaction was allowed to cool to ambient temperature and the ethanol was removed in vacuo to afford an oil/aqueous mixture. The mixture was extracted with methylene chloride. The dried extracts were concentrated in vacuo to afford 0.93 grams of crude product as a yellow oil. The crude product was purified by flash chromatography (silica gel, 20%, ethyl acetate/hexane) to afford 0.56 grams of product as a yellow oil: 1H NMR (CDCl3) δ8.23-8.01(br s, 1H), 7.30-7.05(m, 2H), 6.93-6.81(m, 1H), 3.91(s, 3H), 3.90(s, 3H), 2.84-2.70(m, 2H), 1.74-1.31(m, 4H), 0.93(t, J=7.2 Hz, 3H);13 C NMR (CDCl3) δ159.6, 150.1, 148.9, 128.5, 119.3, 110.6, 108.9, 55.9, 28.7, 25.6, 22.9, 13.8.

reactant | 3′,4′-dimethoxyvalerophenone | 3.60 mmol, 0.08 grams | COC=1C=C(C=CC1OC)C(CCCC)=O | C13H18O3
reactant | hydroxyamine hydrochloride | 5.76 mmol, 0.40 grams | Cl.ON
reactant | sodium acetate | 7.20 mmol, 0.59 grams | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 25 milliliters | C(C)O | C2H6O
solvent | water | 5 milliliters | O | H2O
solvent | water | 5 milliliters | O | H2O
product | 3′,4′-Dimethoxyvalerophenone oxime | 0.56 grams | COC=1C=C(C=CC1OC)C(CCCC)=NO | C13H19NO3
